US05136043
2-Nitrotoluene-4-sulfonyl chloride
137.1 g (1.0 mol) of o-nitrotoluene are added dropwise to 535.9 g (4.6 mol) of chlorosulfonic acid and 2 g of sulfamic acid such that the temperature does not exceed 40° C. The mixture is then stirred at 40° C. for 1 hour and slowly heated to 105° C. It is then stirred at 105° C. for 6 hours, cooled and added dropwise to ice water at 0 to 5° C. The precipitated crystals are filtered off with suction and washed with ice water. 236.1 g of 2-nitrotoluene-4-sulfonyl chloride (water content 10.8%), corresponding to 210.6 g (89% of theory), having a melting point of 40° C. are obtained.

reactant | o-nitrotoluene | 1.0 mol, 137.1 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | chlorosulfonic acid | 4.6 mol, 535.9 g | ClS(=O)(=O)O | ClHO3S
reactant | sulfamic acid | 2 g | S(N)(O)(=O)=O | H3NO3S
product | 2-Nitrotoluene-4-sulfonyl chloride | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)Cl)C | C7H6ClNO4S
